US06462075B1
1,5-Diphenyl-1E,4E-pentadien-3-one.
(3) Hill and Barbaro, Experiments in Organic Chemistry. Contemporary Publishing Co. of Raleigh, Inc., Raleigh, 1996. 5 g of sodium hydroxide, dissolved in 25 ml of water and 25 ml of 95% ethanol, was cooled to 20 to 25° C. 2.9 g (50 mmol) of acetone and 10.6 g (100 mmol) of benzaldehyde were added, and a yellow precipitate formed. After 20 minutes the solution was filtered, and the solid was recrystallized from ethyl acetate to afford 10.1 g (86.3%) of bright-yellow platelets: mp 111.9-112.5° C. (lit. mp 112° C., Hill and Barbaro, supra). 1H NMR (250 MHz) δ 7.79-7.73 (d, 1H), 7.65-7.61 (m, 4H), 7.44-7.41 (t, 6H), 7.13-7.07 (d, 1H) ppm.

reactant | sodium hydroxide | 5 g | [OH-].[Na+]
reactant | acetone | 50 mmol, 2.9 g | CC(=O)C | C3H6O
reactant | benzaldehyde | 100 mmol, 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,5-Diphenyl-1E,4E-pentadien-3-one | C1(=CC=CC=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O | C17H14O
